US08314087B2
1-(1-Hydroxypropan-2-yl)-5-(thiophen-2-yl)pyridin-2(1H)-one.
To a solution of 5-bromo-1-(1-hydroxypropan-2-yl)pyridin-2(1H)-one (0.51 g, 2.2 mmol) and 2-thiopheneboronic acid (0.28 g, 2.2 mmol) in 30 mL of dioxane was added 6 mL of 1N Na2CO3 followed by 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride (0.16 g, 0.22 mmol). The reaction was heated to 90° C. for 12 hours. The mixture was then diluted with 30 mL of water and 80 mL of EtOAc. The organic phase was separated, washed with 40 mL of brine, dried over Na2SO4 and concentrated in vacuo. The residue was obtained as a greenish semi-solid (0.15 g, 29% yield). MS (ESI pos. ion) m/z (MH+): 236.0. Calc'd Exact Mass for C12H13NO2S: 235.07.

reactant | 5-bromo-1-(1-hydroxypropan-2-yl)pyridin-2(1H)-one | 2.2 mmol, 0.51 g | BrC=1C=CC(N(C1)C(CO)C)=O | C8H10BrNO2
reactant | 2-thiopheneboronic acid | 2.2 mmol, 0.28 g | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | Na2CO3 | 1N, 6 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | water | 30 mL | O | H2O
solvent | EtOAc | 80 mL | CCOC(=O)C | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride | 0.22 mmol, 0.16 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-(1-Hydroxypropan-2-yl)-5-(thiophen-2-yl)pyridin-2(1H)-one | 0.15 g, 29% yield | OCC(C)N1C(C=CC(=C1)C=1SC=CC1)=O | C12H13NO2S
